US09421205B2
(f) tert-Butyl 3-((trimethylsilyl)ethynyl)benzoate (I16)
A mixture of tert-butyl 3-iodobenzoate (I15) (4.02 g, 13.2 mmol), Pd(PPh3)4 (0.38 g, 0.33 mmol) and copper(I) iodide (0.13 g, 0.68 mmol) was dissolved in anhydrous THF (50 mL) under a nitrogen atmosphere and the resulting solution degassed by bubbling nitrogen through it. Triethylamine (9.2 mL, 66 mmol) was added and the mixture was then stirred for 10 minutes before addition of TMS-acetylene (3.8 mL, 27 mmol). The resulting mixture was then stirred for 18 hours. The mixture was concentrated under reduced pressure and purified using silica gel column chromatography (0-10% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I16) (3.57 g, 99%) as a cream crystalline solid; 1H NMR (400 MHz, CDCl3) δ 8.06 (ddd, J=1.7, 1.7, 0.5 Hz, 1H), 7.92 (ddd, J=7.9, 1.3, 1.3 Hz, 1H), 7.60 (ddd, J=7.7, 1.4, 1.4 Hz, 1H), 7.35 (ddd, J=7.8, 7.8, 0.5 Hz, 1H), 1.59 (s, 9H), 0.26 (s, 9H). LCMS Method C: rt 7.46 min.

reactant | tert-butyl 3-iodobenzoate | 13.2 mmol, 4.02 g | IC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H13IO2
reactant | Triethylamine | 66 mmol, 9.2 mL | C(C)N(CC)CC | C6H15N
reactant | TMS-acetylene | 27 mmol, 3.8 mL | [Si](C)(C)(C)C#C | C5H10Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.33 mmol, 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.68 mmol, 0.13 g | [Cu]I
product | tert-Butyl 3-((trimethylsilyl)ethynyl)benzoate | C[Si](C)(C)C#CC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C16H22O2Si
